US03983239
Preparation of 8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole
To a mixture of water (50 ml) and 42 % borofluoric acid (18 ml) is added 8-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride (5.7 g), and the mixture is subjected to a catalytic reduction under heating in the presence of platinum dioxide (0.2 g). When hydrogen (820 ml) is absorbed, the catalyst is filtered off and the filtrate is made alkaline with aqueous ammonia, salted out with potassium carbonate and extracted with benzene. The benzene layer is washed with water, dried over anhydrous sodium sulfate and concentrated to give the titled compound (4.2 g), m.p. 73° - 75°C.

reactant | borofluoric acid | 18 ml | [H+].[B-](F)(F)(F)F
reactant | 8-methyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole hydrochloride | 5.7 g | Cl.CC1=CC=2C3=C(NC2C=C1)CCNC3
catalyst | platinum dioxide | 0.2 g | [Pt](=O)=O
solvent | water | 50 ml | O | H2O
product | 8-methyl-2,3,4,4a,5,9b-hexahydro-1H-pyrido[4,3-b]indole | 4.2 g | CC1=CC=2C3C(NC2C=C1)CCNC3 | C12H16N2
